US07868030B2
i) 4-Methoxymethyl-thiazol-2-ylamine
1,3-Dibromoacetone (15 g, 52 mmol) and thiourea (4.05 g, 53.2 mmol, 1.02 equiv.) in methanol were refluxed overnight. The reaction mixture was diluted with water and the pH was adjusted to 1 with HCl 25%, followed by extraction with ethyl acetate. The pH of the aqueous layer was adjusted to 8-9 using solid sodium carbonate. The aqueous layer was extracted with ethyl acetate, and the combined organic extracts were washed with brine, dried over magnesiumsulfat dihydrate, filtered and evaporated. The crude product was purified on silica-gel (NH2-modified) with ethyl acetate/n-heptane as eluent yielding a white solid: 340 mg. MS (ES) m/e 145 (M+H)

reactant | 1,3-Dibromoacetone | 52 mmol, 15 g | BrCC(=O)CBr | C3H4Br2O
reactant | thiourea | 53.2 mmol, 4.05 g, 1.02 equiv. | NC(=S)N | CH4N2S
reactant | HCl | Cl | ClH
reactant | methanol | CO | CH4O
solvent | water | O | H2O
product | 4-Methoxymethyl-thiazol-2-ylamine | COCC=1N=C(SC1)N | C5H8N2OS
